US07247752B2
Preparation of 4-Hydroxy-2-methyl-but-2-enoic acid ethyl ester
886 g (2.44 mol) of 2-(triphenyl-phosphanylidene)-propionic acid ethyl ester in methylene chloride (4 L) was added dropwise into a refluxing solution of glycoaldehyde dimer (140 g, 1.17 mol) in methylene chloride (6 L). After refluxing for 4 h, the solvent was evaporated. Resulting crude product was fractionated (bp 108–114° C. at 2 mmHg) to give 304 g (90%) pure product as an oil. 1H-NMR (300 Hz CDCl3) δ 6.88 (t, 1H, CH), 4.35 (d, 2H, CH2OH), 4.20 (q, 2H, OCH2), 1.85 (s, 3H, CH3), 1.30 (t, 3H, CH3).

reactant | 2-(triphenyl-phosphanylidene)-propionic acid ethyl ester | 2.44 mol, 886 g | C(C)OC(C(C)=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C23H23O2P
reactant | glycoaldehyde | C(C=O)O | C2H4O2
solvent | methylene chloride | 4 L | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 6 L | C(Cl)Cl | CH2Cl2
product | 4-Hydroxy-2-methyl-but-2-enoic acid ethyl ester | 304 g, 90% | C(C)OC(C(=CCO)C)=O | C7H12O3
